US06194428B1
Isopropyl 4-(2,3-dichlorophenyl)-2-methyl-5-oxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate
3.50 g (20 mmol) of 2,3-dichlorobenzaldehyde, 2.24 g (20 mmol) of dihydroresorcinol and 2.86 g (20 mmol) of isopropyl 3-aminocrotonate are dissolved in 100 ml of isopropanol and stirred under reflux for 5 h. The product precipitates. The mixture is treated with 50 ml of water and cooled to RT. The product is filtered off with suction and washed successively with isopropanol, ethanol and ether. 5.8 g (74% of theory) of the title compound are obtained.

reactant | 2,3-dichlorobenzaldehyde | 20 mmol, 3.50 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | dihydroresorcinol | 20 mmol, 2.24 g | C1(O)CC(O)=CC=C1 | C6H8O2
reactant | isopropyl 3-aminocrotonate | 20 mmol, 2.86 g | N\C(=C/C(=O)OC(C)C)\C | C7H13NO2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | Isopropyl 4-(2,3-dichlorophenyl)-2-methyl-5-oxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate | ClC1=C(C=CC=C1Cl)C1C(=C(NC=2CCCC(C12)=O)C)C(=O)OC(C)C | C20H21Cl2NO3
